US04205074
2-(Dithien-2-ylmethylene)indolizidine methyl iodide
In 5 ml. of acetone was dissolved 0.37 g. of 2-(dithien-2-ylmethylene)indolizidine. To the resulting solution was added 1.0 ml. of methyl iodide. The mixture was stirred at room temperature for 3 hrs. The formed crystals were taken out by filtration. By recrystallization from isopropanol, 0.15 g. of colorless or light brown prisms having a melting point of 222° to 225° C. were obtained.

reactant | 2-(dithien-2-ylmethylene)indolizidine | S1C(=CC=C1)C(=C1CC2CCCCN2C1)C=1SC=CC1 | C17H19NS2
reactant | methyl iodide | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 2-(Dithien-2-ylmethylene)indolizidine methyl iodide | CI.S1C(=CC=C1)C(=C1CC2CCCCN2C1)C=1SC=CC1 | InChI=1S/C17H19NS2.CH3I/c1-2-8-18-12-13(11-14(18)5-1)17(15-6-3-9-19-15)16-7-4-10-20-16;1-2/h3-4,6-7,9-10,14H,1-2,5,8,11-12H2;1H3
